US08217031B2
5,6,7,8-Tetrahydrothieno[2,3-c]azepin-4-one
7-Formyl-5,6,7,8-tetrahydrothieno[2,3-c]azepin-4-one (2.6 g) prepared in the step 4 was dissolved in 4N hydrochloric acid/dioxane solution, 13.5 mL of water was added thereto and the mixture was heated at 60° C. for 6 hours with stirring. The solvent was evaporated from the reaction solution in vacuo, water was added to the residue and the mixture was subjected to extraction with diethyl ether. The resulting aqueous solution was slowly neutralized with an aqueous solution of sodium hydrogen carbonate with stirring and subjected to extraction with diethyl ether. The organic layer was separated, washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 2.1 g of the objective compound as a brown solid.

reactant | 7-Formyl-5,6,7,8-tetrahydrothieno[2,3-c]azepin-4-one | 2.6 g | C(=O)N1CC2=C(C(CC1)=O)C=CS2 | C9H9NO2S
reactant | water | 13.5 mL | O | H2O
solvent | hydrochloric acid dioxane | 4N | Cl.O1CCOCC1
product | 5,6,7,8-Tetrahydrothieno[2,3-c]azepin-4-one | 2.1 g | S1C=CC2=C1CNCCC2=O | C8H9NOS
